US08038732B2
Synthesis of 4-[[3-(dimethylamino)-propyl](methyl)amino]benzaldehyde
10 g of 4-fluorobenzaldehyde, 12 g of K2CO3 and 20 ml of NMP are stirred and heated at 50° C. 13 ml of N,N,N′-trimethyl-1,3-propanediamine are added dropwise to the medium kept stirring and heated at 80° C. for 10 h. After the reaction medium has been cooled to ambient temperature, 100 ml of acetone are added. The precipitate obtained is filtered off, and the filtrate is evaporated to dryness and then dried. 21.85 g of powder are recovered. The analyses indicate that the product is in conformity.

reactant | 4-fluorobenzaldehyde | 10 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | K2CO3 | 12 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NMP | 20 ml | CN1CCCC1=O | C5H9NO
reactant | N,N,N′-trimethyl-1,3-propanediamine | 13 ml | CN(CCCNC)C | C6H16N2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-[[3-(dimethylamino)-propyl](methyl)amino]benzaldehyde | CN(CCCN(C1=CC=C(C=O)C=C1)C)C | C13H20N2O
